US09085555B2
3-Acetyl-1-carboxymethyl-1H-indole-5-carboxylic acid methyl ester
was prepared from 1H-indole-5-carboxylic acid methyl ester in a similar manner as described in Scheme A13 for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid. MS: 276 [M+H]+; tR (HPLC conditions k): 2.84 min.

reactant | 1H-indole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C=CNC2=CC1 | C10H9NO2
reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
product | 3-Acetyl-1-carboxymethyl-1H-indole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=CN(C2=CC1)CC(=O)O)C(C)=O | C14H13NO5
